US06130238
Trifluoroacetic anhydride (5.4 mL) was slowly added to a stirred solution of 9.7 g 2-fluoro-5-(3-aminophenyl)-nitrobenzene and 5.3 mL of triethylamine in 50 mL of dichloromethane at 0° C. and the mixture was stirred for an additional 20 minutes. The mixture was concentrated and the residue chromatographed on a column of silica gel (10% ethyl acetate in hexane) to give 8.6 g (65% yield) of 2-fluoro-5-(3-trifluoroacetamidophenyl)nitrobenzene as a pale orange oil which solidified on standing.

reactant | Trifluoroacetic anhydride | 5.4 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-fluoro-5-(3-aminophenyl)-nitrobenzene | 9.7 g | FC1=C(C=C(C=C1)C1=CC(=CC=C1)N)[N+](=O)[O-] | C12H9FN2O2
reactant | triethylamine | 5.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-fluoro-5-(3-trifluoroacetamidophenyl)nitrobenzene | 8.6 g, 65% yield | FC1=C(C=C(C=C1)C1=CC(=CC=C1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C14H8F4N2O3
